US05272163
N-[4-(4-Pyridylsulfonyl)phenyl]-3-fluoro-2-hydroxy-2-methylpropanamide
A solution of 2-hydroxy-2-fluoromethylpropionic acid (0.53 g, 4.33 mmol) in dry dimethylacetamide (12 ml) was stirred under a nitrogen atmosphere at -10° C. Thionyl chloride (0.52 g, 4.33 mmol) was added and the resulting mixture was allowed to stir at -10° C. for 1 hour. 4-Phenylsulfonylaniline (0.68 g, 2.89 mmol) was then added and the reaction mixture was stirred at -10° C. for a further 15 mins. The solution was then allowed to warm to room temperature where it was stirred overnight. The reaction mixture was poured onto water and the pH adjusted to pH 8.0 with sodium bicarbonate solution. The aqueous solution was extracted with ethyl acetate, and the combined ethyl acetate portions were washed with water, and brine. After drying (Na2SO4) the ethyl acetate was removed by evaporation to give a yellow-orange solid. The solid was washed with ether/methylene chloride to yield the title tertiary carbinol (0.32 g, 32%) as a pale yellow solid; mp=209°-211° C. 1H--NMR (300 MHz, d6 --DMSO): 1.31 (s, 3H, CH3), 4.38 (dd, J=72 and 9.4 Hz, 1H, CH2F), 4.58 (dd, J=72 and 9.3 Hz, 1H, CH2F), 6.31 (s, 1H, OH), 7.87 (d, J=6 Hz, 2H, PyH), 7.96 (d, J=8.9 Hz, 2H, PhH), 8.06 (d, J=8.9 Hz, 2H, PhH), 8.86 (d, J=6 Hz, 2H, PyH), 10.22 (s, 1H, NH). MS (CI, CH4): 339(M+1, 100).

reactant | 2-hydroxy-2-fluoromethylpropionic acid | 4.33 mmol, 0.53 g | OC(C(=O)O)(C)CF | C4H7FO3
reactant | Thionyl chloride | 4.33 mmol, 0.52 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-Phenylsulfonylaniline | 2.89 mmol, 0.68 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(N)C=C1 | C12H11NO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | CH4 | C | CH4
reactant | dimethylacetamide | 12 ml | CC(=O)N(C)C | C4H9NO
product | N-[4-(4-Pyridylsulfonyl)phenyl]-3-fluoro-2-hydroxy-2-methylpropanamide | N1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)NC(C(CF)(C)O)=O | C15H15FN2O4S
